US05578724
(4aR)-(10bR)-8-chloro-4-ethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 9.4 g portion of (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was combined in a flask with 94 ml of THF, 20 mL of 50% aqueous sodium hydroxide and 9.36 g of ethyl iodide, and was stirred at reflux, about 66°, for about 16 hours. The mixture was cooled to ambient temperature, and the layers were separated. The organic layer was evaporated to an oil, which was dissolved in ethyl acetate and extracted three times with 100 mL portions of water. It was then dried and evaporated to half its volume while heptane was added in portions. The resulting white crystalline product was filtered, washed with heptane and dried under vacuum at 25° to obtain 3.15 g of the desired product, m.p. 108°-110°. Analysis calculated for C15H18ClNO: C, 68.54; H, 6.83; N, 5.54 Found: C, 68.50; H, 6.88; N, 5.31

reactant | (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | ClC1=CC2=C([C@H]3CCC(N[C@@H]3CC2)=O)C=C1 | C13H14ClNO
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
reactant | ethyl iodide | 9.36 g | C(C)I | C2H5I
solvent | THF | 94 ml | C1CCOC1 | C4H8O
product | (4aR)-(10bR)-8-chloro-4-ethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 3.15 g | ClC1=CC2=C([C@H]3CCC(N([C@@H]3CC2)CC)=O)C=C1 | C15H18ClNO
